US04873329
Potassium t-butoxide (5.1 g.) was added to a stirred mixture of 3,4-dichlorophenylethylene (6.1 g.), bromoform (8.9 g.) and petroleum ether (b.p. 60°-80° C.; 100 ml.) which was cooled to -30° C., and the mixture was stirred at that temperature for 30 minutes, then at laboratory temperature for 17 hours and then poured into water. The mixture was extracted with ethyl acetate and the extract was washed with saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated to dryness under reduced pressure. The residue was purified by chromatography on a silica gel column using petroleum ether (b.p. 40°-60° C.) as eluant, and there was thus obtained as an oil 1,1-dibromo-2-(3,4-dichlorophenyl)cyclopropane.

reactant | Potassium t-butoxide | 5.1 g | CC(C)([O-])C.[K+]
reactant | 3,4-dichlorophenylethylene | 6.1 g | ClC=1C=C(C=CC1Cl)C=C | C8H6Cl2
reactant | bromoform | 8.9 g | C(Br)(Br)Br | CHBr3
solvent | water | O | H2O
product | 1,1-dibromo-2-(3,4-dichlorophenyl)cyclopropane | BrC1(C(C1)C1=CC(=C(C=C1)Cl)Cl)Br | C9H6Br2Cl2
